US06242443B1
7-Chloro-3-(N-ethyl-N-methylamino)-4H-1,2,4-benzothiadiazine 1,1-dioxide
Starting from 3,7-dichloro-4H-1,2,4-benzothiadiazine 1,1-dioxide (753 mg; 3 mmol) and N-ethyl-N-methylamine (708 mg; 12 mmol) and with the use of same procedure as in example 21 650 mg (79%) of the title compound was prepared; m.p. >220° C.; 1H-NMR (DMSO-d6) ppm; 10.4 (s, 1H, NH), 7.69 (d, 1H, H-8), 7.61 (dd, 1H, H-6), 7.55 (d, 1H, H-5), 3.5 (q, 2H, CH2), 3.09 (s, 3H, CH3), 1.10 (t, 3H, CH3); 13C-NMR (DMSO-d6) ppm; 150.21, 134.69, 131.81, 127.27, 123.98, 121.42, 119.54, 44.2, 34.69, 11.91. Analysis C10H12ClN3O2S requires C, 43.88; H, 4.42; N, 15.35; (found C, 43.52; H 4.55; N, 15.30).

reactant | 3,7-dichloro-4H-1,2,4-benzothiadiazine 1,1-dioxide | 3 mmol, 753 mg | ClC1=NS(C2=C(N1)C=CC(=C2)Cl)(=O)=O | C7H4Cl2N2O2S
reactant | N-ethyl-N-methylamine | 12 mmol, 708 mg | C(C)NC | C3H9N
product | 7-Chloro-3-(N-ethyl-N-methylamino)-4H-1,2,4-benzothiadiazine 1,1-dioxide | ClC1=CC2=C(NC(=NS2(=O)=O)N(C)CC)C=C1 | C10H12ClN3O2S
